US08614206B2
A solution of tert-butyl 3-butyn-1-ylcarbamate (123 mg, 0.728 mmol) in NEt3 (4 mL) was treated with 5-bromo-1-methyl-4-nitro-1H-pyrazole (100 mg, 0.485 mmol) and copper(I) bromide dimethyl sulfide complex (10 mg, 0.049 mmol). The mixture was degassed four times by evacuating and refilling with nitrogen gas before tetrakis(triphenylphosphine)-palladium(0) (28 mg, 0.024 mmol) was added. Degassing was repeated twice and the reaction mixture was stirred at room temperature for 20 hr. More tert-butyl 3-butyn-1-ylcarbamate (123 mg, 0.728 mmol) and copper(I) bromide dimethyl sulfide complex (10 mg, 0.049 mmol) were added and the mixture was degassed three times. Tetrakis(triphenylphosphine)palladium(0) (28 mg, 0.024 mmol) was added and the reaction mixture was stirred at room temperature for 48 hr. The mixture was diluted with EtOAc (100 mL) and washed with water (20 mL) and brine (20 mL). The organic layer was separated, dried over MgSO4 and the solvent removed under reduced pressure. Purification of the residue via silica gel column chromatography (30-40% EtOAc/isohexane) gave tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)but-3-ynylcarbamate as a yellow oil (112 mg, 78%). 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 5.03 (s, 1H), 3.94 (s, 3H), 3.46 (q, J=6.4 Hz, 2H), 2.79 (t, J=6.4 Hz, 2H), 1.67-1.27 (m, 9H).

reactant | tert-butyl 3-butyn-1-ylcarbamate | 0.728 mmol, 123 mg | C(CC#C)NC(OC(C)(C)C)=O | C9H15NO2
reactant | 5-bromo-1-methyl-4-nitro-1H-pyrazole | 0.485 mmol, 100 mg | BrC1=C(C=NN1C)[N+](=O)[O-] | C4H4BrN3O2
reactant | tert-butyl 3-butyn-1-ylcarbamate | 0.728 mmol, 123 mg | C(CC#C)NC(OC(C)(C)C)=O | C9H15NO2
solvent | NEt3 | 4 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.024 mmol, 28 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.024 mmol, 28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)but-3-ynylcarbamate | 112 mg, 78% | CN1N=CC(=C1C#CCCNC(OC(C)(C)C)=O)[N+](=O)[O-] | C13H18N4O4
